US20010027196A1
2-Amino-4-(3-fluoro-phenyl)-6-methylsulfanyl-pyrimidine-5-carbonitrile
From 2-amino-4-chloro-6-methylsulfanyl-pyrimidine-5-carbonitrile, m-fluorobenzeneboronic acid, tetrakis(triphenylphosphine)palladium(O) and potassium carbonate in toluene. EI-MS m/e (%): 260 (M+, 40), 259 ([M—H]+, 100).

reactant | 2-amino-4-chloro-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)Cl)C#N)SC | C6H5ClN4S
reactant | m-fluorobenzeneboronic acid | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(O) | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 2-Amino-4-(3-fluoro-phenyl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC(=CC=C1)F)C#N)SC | C12H9FN4S
